US09079919B2
(2RS,4R)-6-(3,5-dichlorophenyl)-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine
In a manner analogous to that described in Example 19, the cross coupling reaction of (2RS,4R)-6-bromo-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine (intermediate B6.3) with 3,5-dichlorophenylboronic acid yielded the title compound (17% yield) as a white solid. MS (ISP): m/z=475.0 [M+H]+.

reactant | (2RS,4R)-6-bromo-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine | BrC=1C=C2C(=CC1)OC(C[C@@]21N=C(OCC1(F)F)N)C1=CC=CC=C1 | C18H15BrF2N2O2
reactant | 3,5-dichlorophenylboronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | (2RS,4R)-6-(3,5-dichlorophenyl)-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine | 17% yield | ClC=1C=C(C=C(C1)Cl)C=1C=C2C(=CC1)OC(C[C@@]21N=C(OCC1(F)F)N)C1=CC=CC=C1 | C24H18Cl2F2N2O2
